US08377937B2
(R)-4-Chloro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine (46 mg, 0.27 mmol, 1.1 eq.) was added to a solution of the tert-butyl 2-(N-(4-chlorobenzyl)piperazine-1-carboxamido)ethylcarbamate (100 mg, 0.25 mmol) and Hunig's base (0.1 mL, 0.75 mmol, 3 eq.) in acetonitrile (3 mL). The resulting mixture was heated to 80° C. overnight. The reaction mixture was diluted with H2O and extracted with DCM, dried and concentrated to yield (R)-tert-butyl 2-(N-(4-chlorobenzyl)-4-(5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxamido)ethylcarbamate (40 mg, 30%). MS (ESI) m/e (M+H+) 529.

reactant | (R)-4-Chloro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 0.27 mmol, 46 mg, 1.1 eq. | ClC=1C2=C(N=CN1)CC[C@H]2C | C8H9ClN2
reactant | tert-butyl 2-(N-(4-chlorobenzyl)piperazine-1-carboxamido)ethylcarbamate | 0.25 mmol, 100 mg | ClC1=CC=C(CN(C(=O)N2CCNCC2)CCNC(OC(C)(C)C)=O)C=C1 | C19H29ClN4O3
reactant | Hunig's base | 0.75 mmol, 0.1 mL, 3 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | H2O | O | H2O
product | (R)-tert-butyl 2-(N-(4-chlorobenzyl)-4-(5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxamido)ethylcarbamate | 40 mg, 30% | ClC1=CC=C(CN(C(=O)N2CCN(CC2)C=2C3=C(N=CN2)CC[C@H]3C)CCNC(OC(C)(C)C)=O)C=C1 | C27H37ClN6O3
